US04048311
A suspension of 15.1 g. (0.136 mol.) of aminomethanesulfonic acid and 14.2 g. (0.145 mol.) of anhydrous potassium acetate in 48 ml. of acetic acid is refluxed for 10 minutes. Phthalic anhydride (21.4 g., 0.145 mol.) is then added and the resulting mixture is refluxed for 2.5 hours. The product is collected by filtration and washed with acetic acid and ethanol to give phthalimidomethanesulfonic acid potassium salt.

reactant | aminomethanesulfonic acid | 0.136 mol | NCS(=O)(=O)O | CH5NO3S
reactant | potassium acetate | 0.145 mol | C(C)(=O)[O-].[K+]
reactant | Phthalic anhydride | 0.145 mol, 21.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | phthalimidomethanesulfonic acid potassium salt | [K+].C1(C=2C(C(N1CS(=O)(=O)[O-])=O)=CC=CC2)=O | InChI=1S/C9H7NO5S.K/c11-8-6-3-1-2-4-7(6)9(12)10(8)5-16(13,14)15;/h1-4H,5H2,(H,13,14,15);/q;+1/p-1
